US08067408B2
2-{[3′-({[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-methyl-3-biphenylyl]methyl}-1H-isoindole-1,3(2H)-dione
Pd(OAc)2 (102.0 mg, 0.45 mmol, 0.03 eq.), PPh3 (476.4 mg, 1.82 mmol, 0.12 eq.), K2CO3 (3.14 g, 22.7 mmol, 1.50 eq.) and 2-[(3-bromo-5-methylphenyl)methyl]-1H-isoindole-1,3(2H)-dione (5.00 g, 13.1 mmol, 1.00 eq.) were suspended in anhydrous 1,4-dioxane (30 mL) under nitrogen. After the mixture was heated to 60° C. for 10 min, [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid (4.84 g, 18.2 mmol, 1.20 eq.) was added. Then the reaction mixture was stirred over night at 100° C. After cooled to room temperature, the solvent was removed under reduced pressure. Then water (25 mL) was added, extracted with CH2Cl2 twice (70 mL, 50 mL). The organic layer was washed with brine (20 mL×2), dried over anhydrous Na2SO4. After the solvent was removed, the crude product was purified on silica column chromatography, eluting with PE/EA (20:1 to 10:1), 4.2 g of product 2-{[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-methyl-3-biphenylyl]methyl}-1H-isoindole-1,3(2H)-dione was obtained, as a colorless liquid. Yield: 59%. 1H NMR (400 MHz, CDCl3): δ 0.11 (s, 6 H), 0.95 (s, 9 H), 2.38 (s, 3 H), 4.79 (s, 2 H), 4.87 (s, 2 H), 7.23 (s, 1 H), 7.31-7.49 (m, 6 H), 7.70-7.72 (m, 2 H), 7.84-7.86 (m, 2 H).

reactant | PPh3 | 1.82 mmol, 476.4 mg, 0.12 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 22.7 mmol, 3.14 g, 1.50 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-[(3-bromo-5-methylphenyl)methyl]-1H-isoindole-1,3(2H)-dione | 13.1 mmol, 5.00 g, 1.00 eq. | BrC=1C=C(C=C(C1)C)CN1C(C2=CC=CC=C2C1=O)=O | C16H12BrNO2
reactant | [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid | 18.2 mmol, 4.84 g, 1.20 eq. | CC(C)(C)[Si](OCC=1C=C(C=CC1)B(O)O)(C)C | C13H23BO3Si
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.45 mmol, 102.0 mg, 0.03 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-{[3′-({[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-methyl-3-biphenylyl]methyl}-1H-isoindole-1,3(2H)-dione | 4.2 g, Yield: 59% | CC(C)(C)[Si](OCC=1C=C(C=CC1)C1=CC(=CC(=C1)C)CN1C(C2=CC=CC=C2C1=O)=O)(C)C | C29H33NO3Si
